Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
EtOH, heroin intoxication
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ yo male with past medical history of EtOH 
abuse, herion abuse, and pancreatitis who presents to the ED 
complaining of EtOH and heroin abuse.  He admits to drinking 
about a pint of vodka and snorting 1g of heroin prior to 
admission.  He was snorting heroin in ___, when he 
sat down and went to sleep.  He denies any trauma, head injury, 
or loss of consciousness.  Patient presents to the ED 
complaining of withdrawal symptoms.  He reports nausea, 
epigastric abdominal pain, diarrhea, chills.  He denies 
auditory/visual hallucintations, tactile disturbances, headache. 

 
In the ED, initial vs were: T 97.8 P 88 BP 134/84 RR 18 O2 sat 
98%. Labs were remarkable for urine opiates, lipase 173, ALT 69, 
AST 222.  Vitals on Transfer: T 98.4 P 72 BP 118/87 RR 16 O2 sat 
100% RA.  
 
On the floor, vs were: T 99.0 P 78 BP 145/95 R 18 O2 sat 100% 
RA.  
 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, night sweats, recent weight loss or gain. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies vomiting, constipation. No 
recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. Ten point review of systems is 
otherwise negative.  

 
Past Medical History:
Pancreatitis
heroin abuse (smokes only, afraid of needles so no IVDU)
alcohol abuse
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: T: 99.0 BP: 145/95 P: 78 R: 18 O2: 100% RA 
General: Thin man in no acute distress.  
HEENT: EOMI, mild tounge fasiculations, PERRLA, pupils 2mm, 
white tounge, moist MM, clear oropharynx.  
Neck: Supple, no LAD, no JVD.  
CV: RRR, normal S1/S2, no murmurs, rubs or gallops.  
Lungs: CTAB.  
Abdomen: Soft, non-distneded, epigastric tenderness to 
palpation, mild guarding, no rebound tenderness, +BS, no 
organomegaly.  
GU: No foley.  
Ext: Warm, well-perfused, 2+ pulses, moderate hand tremors.  
Neuro: CNII-XII intact, motor and sensory grossly intact.   
Skin: No rashes. 

DISCHARGE PHYSICAL EXAM
VS afebrile, BP 130s/80s, HR ___, saturation 100% RA
exam unchanged except:
no tounge fasiculations, no tremor
+ runny nose
 
Pertinent Results:
ADMISSION LABS
___ 08:08AM BLOOD WBC-4.3 RBC-4.37* Hgb-13.4* Hct-39.3* 
MCV-90 MCH-30.8 MCHC-34.2 RDW-13.6 Plt ___
___ 08:08AM BLOOD Neuts-58.1 ___ Monos-10.2 
Eos-4.2* Baso-0.2
___ 08:08AM BLOOD Glucose-122* UreaN-12 Creat-0.8 Na-135 
K-3.6 Cl-94* HCO3-27 AnGap-18
___ 08:08AM BLOOD ALT-69* AST-222* AlkPhos-81 TotBili-1.0
___ 08:08AM BLOOD Lipase-173*
___ 06:10AM BLOOD Calcium-10.3 Phos-3.8 Mg-1.6
___ 08:08AM BLOOD Albumin-4.2
___ 08:08AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE
___ 06:10AM BLOOD HIV Ab-NEGATIVE
___ 08:08AM BLOOD ___ ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:08AM BLOOD HCV Ab-NEGATIVE
___ 09:00AM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG mthdone-NEG

MICRO:
NONE

IMAGING:
NONE
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with past medical history of EtOH abuse, 
herion abuse, and pancreatitis who presented to the ED 
complaining of EtOH and heroin abuse.  He was observed on the 
medical floor for acute detox.
 
# EtOH Withdrawal:  He presented with mild withdrawal symptoms, 
including nausea and abdominal pain.  Has receieved librium once 
daily during admission, however, he did not score high on he 
CIWA scale.  Patient was offered placement in a ___ facility 
but would rather to go to ___.  He was started on 
thiamine, folate, and multivitamin daily. 
 
# Heroin Withdrawal:  Snorts heroin 1g/day for greater than ___ 
years.  No history of IVDU.  He did score highly on the ___ 
___ scale and recieved a total of 40 mg of methadone 
during the admission.  He was not started on methadone 
maintenance because he did not want to arrange for daily vists 
to a program.    

# Abdominal Pain:  His abdominal pain was likely due to opiate 
withdrawal as well since his labs did not indicate hepatitis, 
cholecystitis, or pancreatitis.  His hepatitis serologies 
indicated vaccination to hep B and negative hep C.  He did not 
have guiac positive stools during admission and his hematocrit 
was stable, although gastritis from alcohol abuse is probable so 
he was started on omeprazole 20 mg daily. 

# Scabies: Patient noted intense itching over body, especially 
in groin.  On exam multiple small crusted macules, very itchy, 
with occasional burrows seen.  In setting of homelessness and 
recently borrowing clothes, most likely represents scabies.  
Patient applied Permethrin cream to entire body.  Itching 
improved.  Skin scraping visualized for feces, no mites on 
microscopy.  

TRANSITIONAL ISSUES:
- continue to offer alcohol treatment and methadone maintenance 
programs
 
Medications on Admission:
none
 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg Take 1 tablet by mouth daily Disp #*30 
Tablet Refills:*1
2. Multivitamins 1 TAB PO DAILY 
RX *multivitamin   Take 1 tablet by mouth daily Disp #*30 
Capsule Refills:*1
3. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg Take 1 capsule,delayed ___ by 
mouth daily Disp #*30 Capsule Refills:*0
4. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg Take 1 tablet by mouth daily Disp #*30 
Tablet Refills:*1
5. permethrin 5 % Topical Once 
Apply to entire body from you neck to your feet once for scabies 
infection. 
RX *permethrin 5 % Apply to entire body from you neck to your 
feet once for scabies infection. Once Disp #*1 Each Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Heroin withdrawal
Alcohol withdrawal
Scabies infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you in the hospital!  You were 
admitted to the hospital because you were withdrawing from 
heroin and alcohol.  You were given a few doses of methadone for 
your heroin withdraw, but you will not be set up with methadone 
maintenance because you will need to set this up as an 
outpatient.  You were also diagnosed with scabies infection on 
your skin and treated with a cream.  
All the best,
___ Team
 
Followup Instructions:
___